* C:\Users\Roberto\Documents\GitHub\Circuitos_2022_1\Circuitos_2_Monitoria_2022_1\Taller_7\Draft3.asc
C1 N002 0 1e-3
L1 N003 N002 2e-3
V1 N001 0 SINE(0 100 60) AC 100
R1 N002 N001 300
R2 0 N003 100
;ac list 60
.tran 0 0.5 0 1000
.backanno
.end
